US05556886
A mixture of 0.092 parts of α-amino-2,6-dichlorobenzeneacetamide, 0.032 parts of 2-fluoronitrobenzene and 1 part of 1,3-dimetyl-2-imidazolidinone was stirred for 6 hours at 140° C. The product was extracted and the extract was dried, filtered and evaporated at 100° C. and 133-266 Pa. The residue was purified by column chromatography (HPCL; silica gel; CH2Cl2 /CH3OH 99:1→90:10), yielding 0.12 parts of (-)-2,6-dichloro-α-[(2-nitrophenyl)amino]benzeneacetamide (e.e.=90%).

reactant | α-amino-2,6-dichlorobenzeneacetamide | NC(C(=O)N)C1=C(C=CC=C1Cl)Cl | C8H8Cl2N2O
reactant | 2-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,3-dimetyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
product | (-)-2,6-dichloro-α-[(2-nitrophenyl)amino]benzeneacetamide | ClC1=C(C(=CC=C1)Cl)C(C(=O)N)NC1=C(C=CC=C1)[N+](=O)[O-] | C14H11Cl2N3O3
